US04053618
Using the procedure of Example 10, ethyl 5-(2-propyl-5-thiazolyl)2,4-pentadienoate was reacted with hydrogen in the presence of activated carbon containing 10% palladium and the resulting product was saponified to obtain 2-propyl-5-thiazole-pentanoic acid. The latter product was reacted with α,β-ethanedisulfonic acid to obtain the hemi-α,β-ethane disulfonate of 2-propyl-5-thiazole-pentanoic acid melting at 124°C.

reactant | ethyl 5-(2-propyl-5-thiazolyl)2,4-pentadienoate | C(CC)C=1SC(=CN1)C=CC=CC(=O)OCC | C13H17NO2S
reactant | hydrogen | [H][H] | H2
product | 2-propyl-5-thiazole-pentanoic acid | C(CC)C=1SC(=CN1)CCCCC(=O)O | C11H17NO2S
